US07893099B2
Step 3: (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-cyclopentane-1,2-dicarboxylic acid monoethyl ester (epimeric mixture)
To a solution of (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-cyclopentane-1,2-dicarboxylic acid 1-ethyl ester 2-(tert-Butyl-dimethyl-silanyl) Ester (epimeric mixture, 12.09 g) in ethanol (340 mL) and tetrahydrofuran (114 mL) was slowly added a solution of potassium carbonate (16.68 g) in water (114 mL). After 45 min at room temperature, the solvents were removed in vacuo. Brine was added to the residue and the mixture was cooled to 0° C. then the pH was adjusted to 4-5 using a 10% aqueous solution of potassium hydrogenosulfate. The resulting mixture was extracted with diethylether. The combined organic layers were washed with brine then dried over sodium sulfate and concentrated in vacuo to afford the title compound (8.03 g, 90%) as light yellow oil, used in the next step without further purification. MS (EI): 315.2 (M−H)−.

reactant | (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-cyclopentane-1,2-dicarboxylic acid 1-ethyl ester 2-(tert-Butyl-dimethyl-silanyl) Ester | 12.09 g | C(C)(C)(C)[Si](C)(C)OC(=O)[C@H]1[C@@H](CC(C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC | C21H42O5Si2
reactant | potassium carbonate | 16.68 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 340 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 114 mL | O1CCCC1 | C4H8O
solvent | water | 114 mL | O | H2O
product | (1R,2R)-4-(tert-Butyl-dimethyl-silanyloxy)-cyclopentane-1,2-dicarboxylic acid monoethyl ester | 8.03 g, 90% | C(C)OC(=O)[C@H]1[C@@H](CC(C1)O[Si](C)(C)C(C)(C)C)C(=O)O | C15H28O5Si
